US05843973
N-t-Butoxycarbonyl-2-hydroxymethylcyclopentylamine
In 60 ml of methanol were dissolved 3.18 g of 2-hydroxymethylcyclopentylamine, and 9.72 ml of di-t-butyl dicarbonate were added thereto, and the resulting mixture was stirred at room temperature for 1.5 hour and further allowed to stand at room temperature overnight. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography employing cyclohexane-ethyl acetate (4:1) as an eluting solvent to obtain 0.88 g of the desired compound, isomer A (a compound which has a low polarity) as a colorless crystalline solid and 0.43 g of the desired compound, isomer B (a compound which has a high polarity) as a colorless crystalline solid.

reactant | 2-hydroxymethylcyclopentylamine | 3.18 g | OCC1C(CCC1)N | C6H13NO
reactant | di-t-butyl dicarbonate | 9.72 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 60 ml | CO | CH4O
product | N-t-Butoxycarbonyl-2-hydroxymethylcyclopentylamine | 0.88 g | C(C)(C)(C)OC(=O)NC1C(CCC1)CO | C11H21NO3
